US07179820B2
Sodium hydride (60% dispersion in oil, 195 mg, 4.87 mmol) was added to a solution of (R)-6-(tert-butyldimethylsilanyloxymethyl)-piperidin-2-one (1.13 g, 4.64 mmol) in DMF (8 mL) at rt. After 1 h, methyl 7-iodohept-5-ynoate (1.35 g, 5.07 mmol) in DMF (2 mL) was added via cannula. After 18 h at rt, the reaction was quenched by the addition of aqueous HCl (0.5 M, 25 mL) and the mixture was extracted with EtOAc (3×50 mL). The combined organic phase was washed with saturated aqueous NaHCO3 (50 mL) and brine (3×50 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2→50% EtOAc/CH2Cl2, gradient) afforded 713 mg (40%) of 7-[(R)-2-tert-butyldimethylsilanyloxymethyl)-6-oxo-piperidin-1-yl]-hept-5-ynoic acid methyl ester.

reactant | Sodium hydride | 4.87 mmol, 195 mg | [H-].[Na+]
reactant | (R)-6-(tert-butyldimethylsilanyloxymethyl)-piperidin-2-one | 4.64 mmol, 1.13 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1CCCC(N1)=O | C12H25NO2Si
reactant | methyl 7-iodohept-5-ynoate | 5.07 mmol, 1.35 g | ICC#CCCCC(=O)OC | C8H11IO2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | hept-5-ynoic acid methyl ester | COC(CCCC#CC)=O | C8H12O2
